US05385996
Ethyl α-(Tri-n-butylstannylmethyl)acrylate (Formula I, X=Sn, R1 =--COOCH2CH3, R2 =n-butyl, n=3).
This compound was prepared from ethyl α-(benzenesulphonylmethyl)acrylate, n-Bu3SnH and AIBN in benzene at 80° C. for 1.5 h according to the procedure described in Journal of the Chemical Society, Chemical Communications, 1986, 1339-1340. 1H NMR (CDCl3) δ 0.85-1.65 (30H, m, 3×CH2CH2CH2CH3, OCH2CH3), 2.00 (2H, s, allylic CH2Sn), 4.15 (2H, q, OCH2CH3, J 7.5 Hz), 5.25 (1H, s, olefinic proton), 5.75 (1H, s, olefinic proton).

reactant | ethyl α-(benzenesulphonylmethyl)acrylate | C1(=CC=CC=C1)S(=O)(=O)CC(C(=O)OCC)=C | C12H14O4S
reactant | n-Bu3SnH | [SnH](CCCC)(CCCC)CCCC
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl α-(Tri-n-butylstannylmethyl)acrylate | C(CCC)[Sn](CCCC)(CCCC)CC(C(=O)OCC)=C | InChI=1S/C6H9O2.3C4H9.Sn/c1-4-8-6(7)5(2)3;3*1-3-4-2;/h2-4H2,1H3;3*1,3-4H2,2H3;
